US04065567
Preparation of 2-(2-Amino-5-thiazolyl)-1-propyl-5-nitroimidazole
The procedure of Example 23, with the substitution of β-(1-propyl-5-nitro-2-imidazolyl)styrene for β-(1-ethyl-5-nitro-2-imidazolyl)styrene in the first step is utilized to prepare 2-(2-amino-5-thiadiazolyl)-1-propyl-5-nitroimidazole, melting at 234.5°-236° C.

reactant | β-(1-ethyl-5-nitro-2-imidazolyl)styrene | C(C)N1C(=NC=C1[N+](=O)[O-])C=CC1=CC=CC=C1 | C13H13N3O2
reactant | 2-(2-amino-5-thiadiazolyl)-1-propyl-5-nitroimidazole | NN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])CCC | C8H12N6O2S
product | 2-(2-Amino-5-thiazolyl)-1-propyl-5-nitroimidazole | NC=1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])CCC | C9H11N5O2S
